US05780482
A mixture of ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (2.0 g), absolute ethanol (30 ml) and ethyl 5-aminosalicylate (1.23 g) was boiled under reflux for 1 hour. The mixture was cooled to ambient temperature and filtered to give a solid which was recrystallised from IMS to give ethyl 5-(6-ethoxy-3-ethoxycarbonyl-7-methyl-1,8-naphthyridin-4-ylamino)salicylate hydrochloride, m.p. 208°-210° C.

reactant | ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 2.0 g | ClC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC | C14H15ClN2O3
reactant | ethyl 5-aminosalicylate | 1.23 g | NC1=CC=C(C(C(=O)OCC)=C1)O | C9H11NO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 5-(6-ethoxy-3-ethoxycarbonyl-7-methyl-1,8-naphthyridin-4-ylamino)salicylate hydrochloride | Cl.C(C)OC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)NC1=CC=C(C(C(=O)OCC)=C1)O | InChI=1S/C23H25N3O6.ClH/c1-5-30-19-11-16-20(17(23(29)32-7-3)12-24-21(16)25-13(19)4)26-14-8-9-18(27)15(10-14)22(28)31-6-2;/h8-12,27H,5-7H2,1-4H3,(H,24,25,26);1H
